US05569768
5-Nitrobenzimidazole (0.109 moles, 17.8 g.) was reacted with sodium hydride (0.122 moles, 4.9 g of 60% in mineral oil) and ethyl 2-bromooctanoate (0.102 moles, 22 ml) as in Example 11 to produce a mixture of the 5 and 6 isomer. The isomers were separated to yield 7.8 g of ethyl 2-(5-nitro-1H-benzimidazol-1-yl)octanoate.

reactant | 5-Nitrobenzimidazole | 0.109 moles, 17.8 g | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | sodium hydride | 0.122 moles, 4.9 g | [H-].[Na+]
reactant | ethyl 2-bromooctanoate | 0.102 moles, 22 ml | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
product | ethyl 2-(5-nitro-1H-benzimidazol-1-yl)octanoate | 7.8 g | [N+](=O)([O-])C1=CC2=C(N(C=N2)C(C(=O)OCC)CCCCCC)C=C1 | C17H23N3O4
